US07795437B2
{Trans-4-[(Quinoline-4-carbonyl)-amino]-cyclohexyl}-acetic acid ethyl ester hydrochloride salt
A mixture of Trans-(4-Amino-cyclohexyl)-acetic acid ethyl ester hydrochloride (3.63 g, 17 mmol) was solved in dichloromethane (115 mL) and quinoline-4-carbonyl chloride hydrochloride was added (4.184 g, 18 mmol) followed by the slow addition of triethylamine (11.3 mL, 81 mmol) at 0° C. The mixture was stirred at room temperature overnight and the salts obtained are removed by filtration and the filtrate was extracted. The organic layer was washed with NaHCO3 and brine. The organic phases are dried and concentrated to obtain 3.8 g of a crude. After a flash chromatography with heptane/ethyl acetate 4:1 a solid was obtained that was recrystallized with ethyl acetate and n-heptane to obtain the title compound as a pink solid (2.72 g, 42% yield). MS (m/e): 341.3 (M+H+).

reactant | Trans-(4-Amino-cyclohexyl)-acetic acid ethyl ester hydrochloride | 17 mmol, 3.63 g | Cl.C(C)OC(C[C@@H]1CC[C@H](CC1)N)=O
reactant | quinoline-4-carbonyl chloride hydrochloride | Cl.N1=CC=C(C2=CC=CC=C12)C(=O)Cl
reactant | triethylamine | 81 mmol, 11.3 mL | C(C)N(CC)CC | C6H15N
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 115 mL | ClCCl | CH2Cl2
product | {Trans-4-[(Quinoline-4-carbonyl)-amino]-cyclohexyl}-acetic acid ethyl ester hydrochloride salt | 2.72 g, 42% yield | Cl.C(C)OC(C[C@@H]1CC[C@H](CC1)NC(=O)C1=CC=NC2=CC=CC=C12)=O | InChI=1S/C20H24N2O3.ClH/c1-2-25-19(23)13-14-7-9-15(10-8-14)22-20(24)17-11-12-21-18-6-4-3-5-16(17)18;/h3-6,11-12,14-15H,2,7-10,13H2,1H3,(H,22,24);1H/t14-,15-;
